US07572809B2
Similar procedure as described in example 9B was used, starting from 4-Chloro-5,6-dimethoxy-indan-1-one and n-butylnitrite to give 4-Chloro-5,6-dimethoxy-indan-1,2-dione 2-oxime. LC-MS: m/e 256 (MH+).

reactant | 4-Chloro-5,6-dimethoxy-indan-1-one | ClC1=C2CCC(C2=CC(=C1OC)OC)=O | C11H11ClO3
reactant | n-butylnitrite | C(CCC)ON=O | C4H9NO2
product | 4-Chloro-5,6-dimethoxy-indan-1,2-dione 2-oxime | ClC1=C2CC(C(C2=CC(=C1OC)OC)=O)=NO | C11H10ClNO4
